US07563791B2
Step 2: Preparation of ethyl 3-fluoro-4-nitrobenzaldehyde
To a solution of THF (800 mL) cooled in an ice-salt/water bath was added 3-fluoro-N-methoxy-N-methyl-4-nitrobenzamide followed by addition of 1 M DIBAL in THF by addition funnel over 30 min. The solution was allowed to stir under N2 for 1 h. The reaction mixture was then carefully diluted with 1N HCl (500 mL) and EtOAc (500 mL), transferred to separatory funnel, and separated. The organic phase was washed with 1N HCl (3×250 mL), 1N NaOH (2×250 mL), and water (250 mL). All aqueous layers were back extracted with EtOAc (2×250 mL). The organic layers were combined, dried (MgSO4), filtered, and concentrated in vacuo to afford 67 g of the above compound (396 mmol, yield 88%). 1H-NMR (DMSO-d6) δ 10.06 (s, 1H), 8.36 to 8.32 (t, J=7.8 Hz, 1H), 8.06 to 8.03(d, J=11.2 Hz, 1H), 7.95 to 7.93 (d, J=9.1 Hz, 1H).

reactant | 3-fluoro-N-methoxy-N-methyl-4-nitrobenzamide | FC=1C=C(C(=O)N(C)OC)C=CC1[N+](=O)[O-] | C9H9FN2O4
reactant | DIBAL | 1 M | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 1N, 500 mL | Cl | ClH
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | ethyl 3-fluoro-4-nitrobenzaldehyde | 396 mmol, 67 g, yield 88% | C(C)C1=C(C=O)C=CC(=C1F)[N+](=O)[O-] | C9H8FNO3
